US06197729B1
5-Chloro-6-ethyl-4-[cis-4-(1-ethoxy-2,2,2-trifluoroethyl)cyclohexylamino]pyrimidine
0.61 g of 5-chloro-6-ethyl-4-[cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamino]pyrimidine were added to a suspension of 0.08 g of sodium hydride (80% dispersion in oil) in 10 ml of tetrahydrofuran, and the mixture was stirred at 50° C. until the evolution of hydrogen had ended. 0.28 g of diethyl sulfate were added, and the mixture was heated under reflux for 4 hours. The mixture was cooled to room temperature and a small amount of methanol was added dropwise to destroy excess sodium hydride, the mixture was concentrated and the residue was taken up in dilute ammonia solution and dichloromethane. The organic phase was dried and concentrated. Purification was carried out by silica gel chromatography (petroleum ether/ethyl acetate 1:1). to give the title product as a colourless oil.

reactant | 5-chloro-6-ethyl-4-[cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamino]pyrimidine | 0.61 g | ClC=1C(=NC=NC1CC)N[C@@H]1CC[C@@H](CC1)C(C(F)(F)F)O | C14H19ClF3N3O
reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | diethyl sulfate | 0.28 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 5-Chloro-6-ethyl-4-[cis-4-(1-ethoxy-2,2,2-trifluoroethyl)cyclohexylamino]pyrimidine | ClC=1C(=NC=NC1CC)N[C@@H]1CC[C@@H](CC1)C(C(F)(F)F)OCC | C16H23ClF3N3O
